US08937150B2
6-(pyrrolidin-1-yl)pyridin-3-amine
5-Nitro-2-(pyrrolidin-1-yl)pyridine (9.52 g, 49.3 mmol) was dissolved in THF (50 mL) and DMF (40 mL) and added to a pressure bottle containing Raney-nickel 2800, water slurry (45%) (9.52 g, 162 mmol). The mixture was stirred for 2 hours at 30 psi under H2 gas. The solution was filtered through a nylon membrane, washed with CH3OH and the filtrate concentrated in vacuo to give the title compound (7.78 g, 97%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.81-1.91 (m, 4 H) 3.17-3.29 (m, 4 H) 4.30 (s, 2 H) 6.25 (d, J=8.7, 1 H), 6.90 (dd, J=2.8, 8.7, 1 H), 7.55 (d, J=2.6, 1 H); MS (ESI) m/z 164 (M+H)+.

reactant | 5-Nitro-2-(pyrrolidin-1-yl)pyridine | 49.3 mmol, 9.52 g | [N+](=O)([O-])C=1C=CC(=NC1)N1CCCC1 | C9H11N3O2
reactant | DMF | 40 mL | CN(C)C=O | C3H7NO
reactant | water | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | Raney-nickel | [Ni] | Ni
product | 6-(pyrrolidin-1-yl)pyridin-3-amine | 7.78 g, 97% | N1(CCCC1)C1=CC=C(C=N1)N | C9H13N3
